US05672602
Combine 3,4,5-trimethoxybenzoyl chloride) (2.9 g, 17.0 mmol) and tetrahydrofuran (170 mL) and cool to 0° C. Add diisopropylethylamine (5.92 mL, 34 mmol). Add methylamine hydrochloride (1.26 g, 18.7 mmol). Allow to stir for 1 hour and concentrate in vacuo. Chromatograph on silica gel eluting sequentially with 50% ethyl acetate/hexane to give N-methyl-3,4,5-trimethoxybenzamide: TLC Rf =0.45 (silica gel, 50% ethyl acetate/hexane).

reactant | 3,4,5-trimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=C(C1OC)OC | C10H11ClO4
reactant | diisopropylethylamine | 34 mmol, 5.92 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methylamine hydrochloride | 18.7 mmol, 1.26 g | Cl.CN
solvent | tetrahydrofuran | 170 mL | O1CCCC1 | C4H8O
product | N-methyl-3,4,5-trimethoxybenzamide | CNC(C1=CC(=C(C(=C1)OC)OC)OC)=O | C11H15NO4
